US06162824
Step 1: 3-(9-Phenyl-9-fluorenyl)-2-bromo-propene
A solution of 9-phenylfluorene in anhydrous THF is cooled to -78° C. under a nitrogen atmosphere. A solution of nBuLi in hexanes (1 eq) is added dropwise via syringe. After stirring at -78° C. for 10 min a solution of 2,3-dibromopropene (1.2eq) in THF is added dropwise via syringe. The solution is stirred at -78° C. for 1 h and then allowed to warm to room temperature. The reaction mixture is quenched by the addition of sat. aq NH4Cl. The resulting mixture is extracted with ether. The organic layer is washed with H2O and then brine, dried (Na2SO4), and concentrated in vacuo. The concentrate is purified by flash chromatography on silica gel eluting with hexanes-ethyl acetate to afford the title compound.

reactant | 9-phenylfluorene | C1(=CC=CC=C1)C1C2=CC=CC=C2C=2C=CC=CC12 | C19H14
reactant | nBuLi | [Li]CCCC
reactant | 2,3-dibromopropene | 1.2eq | BrC(=C)CBr | C3H4Br2
solvent | THF | C1CCOC1 | C4H8O
product | 3-(9-Phenyl-9-fluorenyl)-2-bromo-propene | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)CC(=C)Br | C22H17Br
